US08791142B2
Step 1) methyl 2′-chloro-2-(methoxymethyl)biphenyl-4-carboxylate
To a solution of methyl 4-bromo-3-(methoxymethyl)benzoate (15 g, 57.9 mmol) in toluene (120 mL) and water (30 mL) under nitrogen was added 2-chlorophenylboronic acid (19.9 g, 127.4 mmol), followed by potassium carbonate (16 g, 115.8 mmol) and Pd(PPh3)4 (3.34 g, 2.8 mmol). After 3 hours at 100° C., the reaction mixture was diluted with EtOAc (200 mL) and washed with a saturated aqueous solution of NaHCO3 (100 mL), water (2×100 mL) and brine. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by chromatography (silica gel, pet ether/EtOAc) to afford of the title compound as a pale yellow oil. LC/MS, M+(ESI): 291.0. 1H NMR (CDCl3, 400 MHz) δ 8.21 (1H, s), 8.01 (1H, d), 7.48 (1H, m), 7.34 (2H, m), 7.26 (2H, m), 4.33 (1H, dd), 4.20 (1H, dd), 3.94 (3H, s), 3.27 (3H, s).

reactant | methyl 4-bromo-3-(methoxymethyl)benzoate | 57.9 mmol, 15 g | BrC1=C(C=C(C(=O)OC)C=C1)COC | C10H11BrO3
reactant | 2-chlorophenylboronic acid | 127.4 mmol, 19.9 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 115.8 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 mL | O | H2O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 2.8 mmol, 3.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2′-chloro-2-(methoxymethyl)biphenyl-4-carboxylate | ClC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)COC | C16H15ClO3
